US07262185B2
4-mercapto-3-trifluoromethylaniline (1.0 g), 3-chloromethyl-4-propyl-4H-1,2,4-triazole hydrochloride (1.1 g) and potassium carbonate (1.4 g) were added to N,N-dimethylformamide (35 ml), and the mixture was stirred overnight at room temperature. The mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and then, the solvent was evaporated. The residue was purified by silica gel column chromatography (elution solvent: triethylamine/methanol/ethyl acetate) to give 4-[(4-propyl-4H-1,2,4-triazol-3-yl)methylthio]-3-trifluoromethylaniline (1.4 g) as pale brown oil.

reactant | 4-mercapto-3-trifluoromethylaniline | 1.0 g | SC1=C(C=C(N)C=C1)C(F)(F)F | C7H6F3NS
reactant | 3-chloromethyl-4-propyl-4H-1,2,4-triazole hydrochloride | 1.1 g | Cl.ClCC1=NN=CN1CCC
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[(4-propyl-4H-1,2,4-triazol-3-yl)methylthio]-3-trifluoromethylaniline | 1.4 g | C(CC)N1C(=NN=C1)CSC1=C(C=C(N)C=C1)C(F)(F)F | C13H15F3N4S
